Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Near syncope
 
Major Surgical or Invasive Procedure:
Packed RBC transfusion x 1 
 
History of Present Illness:
Patient is a ___ yo G4P1 post-procedure day #1 from an IVF
egg retrieval of 31 eggs who reports 3 episodes of near syncope
at home where she got up from the couch and nearly lost
consciousness. Denies LOc. Denies head trauma.

Called Dr. ___ was advised to present to nearest Ed. In
ED received 3L IVF and remained orthostatic per report. HCT fell
from 31 -> 26 and she was felt to have positive free fluid in 
her
abdomen concerning for hemoperitoneum. She was given 1 unit pRBC
and transfered to ___.

In ___ ED, VS stable. She reports feeling significantly
improved s/p 1u pRBC. Had ambulated to restroom twice without
dizziness, SOB. Denies n/v/chest pain/palps. Does report
significant abdominal distension. Denies recent flatus or BM.
Denies vaginal bleeding. No recent intercourse.

Per ED +free fluid on bedside scan with bilaterally enlarged
adnexa.
 
Past Medical History:
OBHx: ___
- G1 SAB, ___ trimester, D&E
- G2 SVD, full-term
- G3 SAB, ___ trimester, medical abortion
- G4 TAB, for T21 

GYNHx: 
- LMP ___
- Hx of genital herpes, no active lesions, not on prophylactic
therapy
- Last Pap ___ year ago, denies hx of abnormal Paps

PMH: 
- Asherman syndrome diagnosed by hysterogram 
- migranes
- HLP
- genital HSV

PSH: 
- Hysteroscopy x 3 with lysis of uterine adhesions
- D&E for first trimester SAB
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, mildly distended, appropriately tender, no 
rebound/guarding
Ext: non-tender, no edema
 
Pertinent Results:
___ 02:46AM   GLUCOSE-104* UREA N-11 CREAT-0.4 SODIUM-138 
POTASSIUM-3.5 CHLORIDE-109* TOTAL CO2-20* ANION GAP-13
___ 02:46AM   WBC-9.8 RBC-3.02* HGB-9.6* HCT-27.7* MCV-92 
MCH-31.8 MCHC-34.7 RDW-12.7 RDWSD-42.5
___ 02:46AM   PLT COUNT-152#
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service after presenting to an OSH ED after multiple 
pre-syncopal episodes status-post trans-vaginal egg retrieval. 
In the ED she was found to have hemoperitoneum on abdominal 
ultrasound with acute on chronic anemia. She was transfused 1 
unit of pRBC and then transferred to ___ for further 
management. 

On arrival patients hct was found to be stable at 27, she 
subsequently received a 2nd unit of pRBC's. Her repeat Hct was 
29.4. Her serial abdominal exams remained stable as did her 
vitals. Her diet was subsequently advanced. On day of discharge 
her Hct was 31.4 and patient was asymptomatic.  

By hospital day 2, she was tolerating a regular diet, 
hemodynamically stable, and ambulating without symptoms. She was 
then discharged home in stable condition with outpatient 
follow-up scheduled.

 
Medications on Admission:
Denies
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hemoperitoneum

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after presenting 
with lightheadedness and feeling faint at home. You have 
recovered well and the team believes you are ready to be 
discharged home. Please call Dr. ___ office with any 
questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___